US08859774B2
1-Methyl-1H-imidazole (104 mg, 1.267 mmol) in dry ether (5 mL) was added to butyllithium (2.5M in hexanes) (519 μl, 1.298 mmol) in dry ether (2 mL) at −78° C. The reaction mixture was stirred at −78° C. for 45 minutes. A solution of (R)-methyl 1-(4-fluorophenyl)-6-tosyl-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (200 mg, 0.415 mmol) in dry ether (5 mL) was added dropwise and the reaction mixture was stirred for 45 minutes at −78° C., then allowed to warm to room temperature over 2 hours. Water (20 mL) was added and the reaction mixture was stirred at room temperature for 10 minutes. The aqueous phase was extracted with ethyl acetate (3×20 mL), the combined organic phases were washed with brine (20 mL), dried (magnesium sulfate), and solvent removed to give a yellow oil. The crude product was purified by chromatography on silica gel (gradient: 0-60% ethyl acetate in isohexane) to afford (R)-(1-(4-fluorophenyl)-6-tosyl-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(1-methyl-1H-imidazol-2-yl)methanone (22 mg) as a pale yellow solid. LCMS (Method F, ES-API): RT 2.52 min, m+H=532.0; 1H NMR (400 MHz, CDCl3): δ 7.61-7.58 (2H, m), 7.46-7.40 (2H, m), 7.31 (1H, s), 7.29-7.27 (2H, m), 7.18 (1H, d, J=0.9 Hz), 7.17-7.12 (2H, m), 6.99 (1H, br. s), 6.50 (1H, d, J=2.2 Hz), 5.53 (1H, dd, J=12.2, 2.2 Hz), 4.45 (1H, d, J=16.7 Hz), 3.88-3.84 (4H, m), 2.92-2.78 (2H, m), 2.60 (1H, d, J=12.2 Hz), 2.50-2.37 (5H, m).

reactant | 1-Methyl-1H-imidazole | 1.267 mmol, 104 mg | CN1C=NC=C1 | C4H6N2
reactant | butyllithium | 1.298 mmol, 2.5M, 519 μl | C(CCC)[Li]
reactant | (R)-methyl 1-(4-fluorophenyl)-6-tosyl-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 0.415 mmol, 200 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)S(=O)(=O)C2=CC=C(C)C=C2 | C25H24FN3O4S
reactant | Water | 20 mL | O | H2O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | (R)-(1-(4-fluorophenyl)-6-tosyl-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(1-methyl-1H-imidazol-2-yl)methanone | 22 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2N(C=CN2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C28H26FN5O3S
